US06949579B2
20 cm3 of trimethylsilyl iodide are added to 1.1 g of N-[6-chloro-5-[4-(phenylmethoxy)phenyl]-1H-indazol-3-yl]butanamide, prepared in Example 95, and the mixture is refluxed for 18 hours. 30 cm3 of methanol are added and the reaction medium is refluxed for 30 minutes and then concentrated to dryness under reduced pressure (2 kPa; 50° C.). The residue is taken up in 100 cm3 of ethyl acetate and 100 cm3 of water and the organic phase is washed with 2×75 cm3 of 10% sodium thiosulphate solution and then with 70 cm3 of water and 75 cm3 of saturated sodium chloride solution. The organic phase is separated out after settling of the phases has taken place, dried over magnesium sulphate, filtered and then concentrated to dryness under reduced pressure to give 1.44 g of crude product, which is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 3.5 cm), eluting with a cyclohexane/ethyl acetate mixture (70/30 by volume). The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.); the residue is taken up in 20 cm3 of diisopropyl ether, filtered off, washed with 3×10 cm3 of diisopropyl ether and then dried (90 Pa; 45° C.) to give 210 mg of N-[6-chloro-5-(4-hydroxyphenyl)-1H-indazol-3-yl]butanamide in the form of a white powder.

reactant | trimethylsilyl iodide | 20 cm3 | C[Si](C)(C)I | C3H9ISi
reactant | N-[6-chloro-5-[4-(phenylmethoxy)phenyl]-1H-indazol-3-yl]butanamide | 1.1 g | ClC1=C(C=C2C(=NNC2=C1)NC(CCC)=O)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C24H22ClN3O2
solvent | methanol | 30 cm3 | CO | CH4O
product | N-[6-chloro-5-(4-hydroxyphenyl)-1H-indazol-3-yl]butanamide | 210 mg | ClC1=C(C=C2C(=NNC2=C1)NC(CCC)=O)C1=CC=C(C=C1)O | C17H16ClN3O2
